2105-04-08 11:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2105-4-7**] 05:30 PM
 ARTERIAL LINE - START [**2105-4-7**] 06:25 PM
   K+ 3.6 repleted
   HCT dropped from 29.5 to 24.5. Repeat HCT requested, hemolysis labs
   sent
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-4-7**] 08:30 PM
   Piperacillin - [**2105-4-7**] 10:00 PM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2105-4-7**] 04:40 PM
   Furosemide (Lasix) - [**2105-4-7**] 04:40 PM
   Morphine Sulfate - [**2105-4-7**] 04:45 PM
   Pantoprazole (Protonix) - [**2105-4-8**] 09:00 AM
   Midazolam (Versed) - [**2105-4-8**] 09:30 AM
   Fentanyl - [**2105-4-8**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-8**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 92 (73 - 99) bpm
   BP: 132/47(74) {89/36(52) - 132/58(80)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 70 kg
             Total In:
                                                                  1,255 mL
                                                                    372 mL
   PO:
             TF:
   IVF:
                                                                  1,255 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    630 mL
   Urine:
                                                                  1,950 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -695 mL
                                                                   -258 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/49/108/31/4
   Ve: 12 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   338 K/uL
   8.0 g/dL
   103 mg/dL
   0.8 mg/dL
   31 mEq/L
   3.6 mEq/L
   20 mg/dL
   95 mEq/L
   130 mEq/L
   24.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2105-4-7**]  05:02 PM
                             [**2105-4-7**]  06:01 PM
                             [**2105-4-7**]  07:43 PM
                             [**2105-4-8**]  02:58 AM
                             [**2105-4-8**]  03:11 AM
                             [**2105-4-8**]  06:16 AM
   WBC
   16.5
   11.9
   Hct
   30
   29.5
   24.5
   24.8
   Plt
   449
   338
   Cr
   0.9
   0.8
   TropT
   1.45
   TCO2
   30
   26
   32
   Glucose
   139
   103
   Other labs: PT / PTT / INR:19.5/28.3/1.8, CK / CKMB /
   Troponin-T:160/27/1.45, Alk Phos / T Bili:/0.3, Lactic Acid:0.6 mmol/L,
   LDH:290 IU/L
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ANXIETY
 ANXIETY
   Patient is a 82 y/o F w/ COPD, pneumonia, now with an NSTEMI found to
   have 2vd on cath s/p BMS to RCA and LCx and transferred to the CCU for
   hypotension s/p cardiac catheterization.
   .
   #. Respiratory Distress: Pneumonia vs. CHF vs. DAH vs. COPD.  CT chest
   at OSH earlier this month for bloody sputum showed no PE and reportedly
   no mass.  Distant family history of TB in the past, never treated by
   report from family, and now p/w hemoptysis.  Unlikely to be TB unless
   CXR reflects extensive hemoptysis.
   - obtain OSH CT results, esp most recent CT.
   - repeat CT chest today
   - hold on isolation until more data obtained
   - Serial CXR
   - nebulizers
   - Prednisone 40mg this am,  taper as tolerated
   - nebulizers
   - Treat for pneumonia, vanco/zosyn
   - sputum/blood culture
   -f/u urine legionella
   -Pulm consult. Question bronchoscopy.
   - Consider bronch s/p CT chest.
   .-continue intubation given ongoing underlying respiratory distress.
   .
   #. Hypotension: Presumably cardiogenic shock [**3-10**] NSTEMI but cannot
   exclude sepsis given potential pneumonia.
   - low dose dopamine for now.
   - Transfuse 1 unit RBC.
   .
   #. CAD: s/p NSTEMI 2 vessel disease s/p BMS to RCA and DES to LCx.
   - Aspirin 325 daily
   - Plavix 75 daily (loaded earlier)
   - High dose statin
   - Beta-blockade when hemodynamically stable
   - Repeat Echo this am
   - hold integrillin given hemoptysis.
   .
   #. Pump: no h/o CHF, but with pulmonary edema vs. pneumonia/DAH on
   arrival.
   - TTE s/p NSTEMI
   -lasix IV PRN
   - beta-blocker when able
   - ACE for depressed EF if applicable.
   .
   #. Rhythm: Sinus, no h/o atrial fibrillation
   - monitor on telemetry
   - daily EKG for bradycardia given RCA stents.
   .
   # Hemoptysis vs. Hematemsis.
   - CT chest
   -Transfuse 1U PRBC given crit drop.
   - serial hct's
   - suctioning
   - guaiac stools.
   - famotidine, restart pantoprazole.
   .
   #. Pneumonia: as per above.
   -culture/abx
   .
   # COPD: On home O2
   - confirm outpatient O2 regimen
   - nebulizers
   - as per above.
   .
   # Abdominal Wall ecchymoses/hematoma:
   - serial Hct's q8H
   - hold integrillin as per above
   .
   # Hyponatremia: hypovolemic vs. SIADH [**3-10**] malignancy
   - f/u urine lytes but interpret with caution as had lasix on arrival.
   - trend
   .
   # GERD: On [**Hospital1 7**] PPI at home.  hold for now, and treat with H2 blocker
   while NPO.
   - start pantoprazole
   .
   # HTN: hold home medications
   .
   # Pain: Fentanyl/versed for sedation
   .
   #. FEN:
   - tube feeds if intubated at 48 hours
   .
   #. Access:
   - PIV's x3
   - arterial line
   - consider central access in AM.
   .
   #. PPx:
   - heparin subcu
   - bowel regimen
   - famotidine
   .
   #. Code:  DNR -> d/w proxy
   .
   #. Dispo:  CCU for now.
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-4-7**] 06:00 PM
   Arterial Line - [**2105-4-7**] 06:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ICU Care
   Nutrition: NGT in place, NPO for now, Tube feeds if intubated >48
   hours.
   Glycemic Control:
   Lines:
   20 Gauge - [**2105-4-7**] 06:00 PM
   Arterial Line - [**2105-4-7**] 06:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2105-04-09 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT chest showed pulmonary hemorrhage, added ANCA, [**Doctor First Name **], C3, C4,
   anti-GBM
   - consulted pulm, bronch didn't show anything (no current hemorrhage)
   - gave 1 unit of blood (with lasix); then gave a 2nd unit -> Hct 29.6
   - started pantoprazole [**Hospital1 7**]
   - d/c fentanyl and started propofol
   - repeat K was 3.3 -> repleted with 80 meq -> K4.2
   - INR increasing, gave vitamin K
   - In&out: 500 cc positive at MN
   - CD of CT scan being mailed to [**Hospital1 **]
   .
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-4-7**] 10:00 PM
   Vancomycin - [**2105-4-8**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-9**] 12:51 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2105-4-8**] 09:15 PM
   Heparin Sodium (Prophylaxis) - [**2105-4-8**] 09:30 PM
   Fentanyl - [**2105-4-9**] 04:40 AM
   Midazolam (Versed) - [**2105-4-9**] 04:40 AM
   Furosemide (Lasix) - [**2105-4-9**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-9**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 96 (60 - 107) bpm
   BP: 146/53(84) {97/39(57) - 178/76(110)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.8 kg (admission): 70 kg
           Total In:
                                                                  2,220 mL
                                                                    323 mL
   PO:
           TF:
   IVF:
                                                                    963 mL
                                                                    229 mL
   Blood products:
                                                                    477 mL
                                                                     94 mL
   Total out:
                                                                  1,700 mL
                                                                    143 mL
   Urine:
                                                                  1,700 mL
                                                                    143 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 61
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 28.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/51/76.[**Numeric Identifier 126**]/31/4
   Ve: 7.3 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Asleep but responds to voice and command. Vitals stable. Good capillary
   refill in peripheries.
   Hs dual with no added sounds. Resp much improved air entry.
   Pitting oedema minimal.
   Labs / Radiology
   279 K/uL
   10.0 g/dL
   89 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.2 mEq/L
   17 mg/dL
   96 mEq/L
   132 mEq/L
   29.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2105-4-7**]  06:01 PM
                             [**2105-4-7**]  07:43 PM
                             [**2105-4-8**]  02:58 AM
                             [**2105-4-8**]  03:11 AM
                             [**2105-4-8**]  06:16 AM
                             [**2105-4-8**]  06:07 PM
                             [**2105-4-8**]  06:18 PM
                             [**2105-4-8**]  10:08 PM
                             [**2105-4-9**]  05:13 AM
                             [**2105-4-9**]  05:25 AM
   WBC
   16.5
   11.9
   9.0
   Hct
   29.5
   24.5
   24.8
   25.4
   29.6
   Plt
   449
   338
   279
   Cr
   0.9
   0.8
   0.8
   0.8
   TropT
   1.45
   0.68
   TCO2
   26
   32
   32
   32
   33
   Glucose
   139
   103
   89
   Other labs: PT / PTT / INR:17.1/28.1/1.5, CK / CKMB /
   Troponin-T:92/27/0.68, ALT / AST:14/27, Alk Phos / T Bili:63/0.6,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:9.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, LDH:306 IU/L, Ca++:8.3 mg/dL, Mg++:2.5
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ANXIETY
   Patient is a 82 y/o F w/ COPD, pneumonia, now with an NSTEMI found to
   have 2vd on cath s/p BMS to RCA and LCx and transferred to the CCU for
   hypotension s/p cardiac catheterization.
   .
   #. Respiratory Distress: Pulm haemorrhage ?autoimmune vs ?pneumonia
   complicated by probable cardiogenic shock [**3-10**] NSTEMI and pre-existing
   COPD
   - obtain OSH results, esp culture data & imaging
   - CT chest showing pulm haemorrhage -> Await autoimmune markers
   - Pulm consult
 bronchoscopy not remarkable but will reconsult re able
   to extubate given hx hemorrhage.
   - if pulm agrees d/c propofol, wean vent to extubate
   - Serial CXR
   - nebulizers
   - Prednisone 40mg this am,  taper  post extubation
   - Treat for pneumonia, vanco/zosyn
   - f/u sputum/blood culture
   - sputum gram stain <10 PMNs and <10 epithelial cells/100X field. NO
   MICROORGANISMS SEEN.
   - urine legionella NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN
   .
   #. Hypotension: Presumably due to pulmonary haemorrhage and cardiogenic
   shock [**3-10**] NSTEMI but cannot exclude sepsis given potential pneumonia.
   - low dose dopamine for now.
   .
   # Anaemia:
   - Serial Hct
   .
   #. CAD: s/p NSTEMI 2 vessel disease s/p BMS to RCA and DES to LCx.
   - Aspirin 325 daily
   - Plavix 75 daily
   - High dose statin
   - Beta-blockade when hemodynamically stable
 at least wait until
   extubation
   - Repeat Echo this am.
   .
   #. Pump: no h/o CHF, but with pulmonary edema vs. pneumonia/DAH on
   arrival.
   - TTE s/p NSTEMI today
   -lasix PRN goal net neg 500cc-1L
   - beta-blocker when able, hold for now as above.
   - ACE for depressed EF, hold for now borderline hypotension. Becomes
   hypertensive with agitation
   .
   #. Rhythm: Sinus, no h/o atrial fibrillation
   - monitor on telemetry
   - daily EKG for bradycardia given RCA stents.
   .
   # Hemoptysis vs. Hematemsis.
   - CT chest showed pulm haemorrhage
 await autoimmune markers as above
   - Hct now 29.6 post 2 units blood with lasix.
   - serial hct's
   - suctioning
   - guaiac stools.
   .
   #. Pneumonia: as per above.
   -culture/abx for now. f/u with [**Hospital3 **] latest data re cx data
   to guide whether d/c abx.
   Has been afebrile, no evidence infection here.
   - sputum gram stain negative as above.
   - f/u final sputum/blood cx.
   .
   # COPD: On home O2
   - Taper pred this afternoon if resp status allows post extubation
   - confirm outpatient O2 regimen
   - nebulizers
   - as per above.
   .
   # Abdominal Wall ecchymoses/hematoma:
   - serial Hct's q8H
   .
   # Hyponatremia: hypovolemic vs. SIADH [**3-10**] malignancy. Slowly improving.
   - f/u urine lytes but interpret with caution as had lasix on arrival.
   - trend
   .
   # GERD: On [**Hospital1 7**] PPI at home.
   - Pantoprazole restarted.
   .
   # HTN: hold home medications as above.
   .
   # Pain: propofol for sedation, d/c prior to extubation.
   .
   ICU Care
   Nutrition: tube feeds if intubated at 48 hrs
   Glycemic Control: Regular insulin sliding scale
   Lines:
   20 Gauge - [**2105-4-7**] 06:00 PM
   Arterial Line - [**2105-4-7**] 06:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Improving - hopefully able to extubate today
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**],MD
   on:[**2105-4-9**] 13:19 ------

2105-04-10 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRSA screen positive
   - Echo yesterday showing EF 55-60%; mod LA enlargement; mild LV
   systolic dysfunction; mildly thickened Aortic valve leafelets with 1+
   AR; mildly thickened mitral valve leaflets with 3+ MR; mild-mod
   thickened tricuspid valve with 1-2+ TR and mod PA systolic HTN; v small
   pericardial effusion
   - Spontaneous Breathing trial successful on Pressure support [**6-10**] with
   Rsbi = 60s
   - 2nd Trial with PS 0/0 unsuccessful with RR = 40s, but propofol was
   turned off for this trial - ?anxiety contributing to tachypnoea
   - Resp consult: pulm haemorrhage unlikely due to autoimmune origin as
   there are multiple explanations and further investigation re cause of
   haemorrhage
   Suggest to treat her just as any other pt with resp failure.
   1. No reason to be on volume control -> change to pressure control
   2. Hold spiriva and albuterol nebs -> change to INH
   3. Cont prednisone, then wean it down post extubation
   4. Add fluoroquinolone for pneumonia treatment for broad coverage
   5. Cont diuresis
   6. Avoid benzo to avoid sedation, but add haloperidol PRN for sedation
   with QTc monitor
   7. Pressure support 0/0 prior to extubation
   - As per resp consult:
     - Nebs on hold and added Ipratropium Bromide MDI 2 PUFF IH QID and
   Albuterol Inhaler 2 PUFF IH Q6H
     - Added Levoflox 750mg po/ng q48h
     - Added Haloperidol 1 mg IV Q4H:PRN
   However
   [**Hospital3 13791**] data:
     - sputum culture on [**2105-04-05**] positive for MRSA and capnocytophaga
   (heavy growth)
     - MRSA sensitivity: sensitive to vanc but RESISTANT TO LEVOFLOX
     - blood culture on [**2105-04-05**]: NGTD on [**2105-2-8**]
   Other
   - Added Nitroglycerin 0.05-0.2 mcg/kg/min IV DRIP TITRATE TO MAP < 75
   - [**Doctor First Name **] negative; C3 C4 normal; ANCA and antiGBM pending
   - CXR result
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2105-4-7**] 10:00 PM
   Vancomycin - [**2105-4-9**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-10**] 12:17 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2105-4-9**] 02:27 PM
   Heparin Sodium (Prophylaxis) - [**2105-4-10**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-10**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 83 (50 - 112) bpm
   BP: 116/37(55) {101/37(55) - 168/90(121)} mmHg
   RR: 17 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 70 kg
             Total In:
                                                                  1,058 mL
                                                                    291 mL
   PO:
             TF:
   IVF:
                                                                    904 mL
                                                                    291 mL
   Blood products:
                                                                     94 mL
   Total out:
                                                                  2,678 mL
                                                                    305 mL
   Urine:
                                                                  2,678 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,620 mL
                                                                    -14 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 312 (312 - 312) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.52/40/103//9
   Ve: 7.9 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Asleep but moves in response to voice, but does not seem to follow
   commands.
   Became anxious and hypertensive during examination
 SBP stable in
   150-160 currently
   Well perfused peripheries
   HS dual with no added sounds, Resp reasonable air entry with a few
   expiratory wheeze.
   [**Last Name (un) 61**] not examined
   Peripheral oedema minimal
   Labs / Radiology
   279 K/uL
   10.0 g/dL
   89 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.2 mEq/L
   17 mg/dL
   96 mEq/L
   132 mEq/L
   28.1 %
   9.0 K/uL
        [image002.jpg]
                             [**2105-4-8**]  02:58 AM
                             [**2105-4-8**]  03:11 AM
                             [**2105-4-8**]  06:16 AM
                             [**2105-4-8**]  06:07 PM
                             [**2105-4-8**]  06:18 PM
                             [**2105-4-8**]  10:08 PM
                             [**2105-4-9**]  05:13 AM
                             [**2105-4-9**]  05:25 AM
                             [**2105-4-9**]  02:11 PM
                             [**2105-4-10**]  01:49 AM
   WBC
   11.9
   9.0
   Hct
   24.5
   24.8
   25.4
   29.6
   28.1
   Plt
   338
   279
   Cr
   0.8
   0.8
   0.8
   TropT
   0.68
   TCO2
   32
   32
   32
   33
   34
   Glucose
   103
   89
   Other labs: PT / PTT / INR:17.1/28.1/1.5, CK / CKMB /
   Troponin-T:92/27/0.68, ALT / AST:14/27, Alk Phos / T Bili:63/0.6,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:9.0 %, Mono:3.0 %, Eos:0.0
   %, Lactic Acid:1.0 mmol/L, LDH:306 IU/L, Ca++:8.3 mg/dL, Mg++:2.5
   mg/dL, PO4:2.5 mg/dL
   Microbiology: - [**Hospital3 **] data:
     - sputum culture on [**2105-04-05**] positive for MRSA and capnocytophaga
   (heavy growth)
    - MRSA sensitivity: S to vanc, trim-sulfa, tetracyc, rifampin, but
   resistant to oxacillins, erythro, and levoflox
     - blood culture on [**2105-04-05**]: NGTD on [**2105-2-8**]
   - MRSA screen positive
   - [**Hospital1 19**] sputum/blood culture pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 ANXIETY
   #Respiratory: Respiratory function improving overall, but failed SBT on
   PC 0/0 yesterday probably partly due to her anxiety.
   - Daily CXR
   - Cont treat for pneumonia
 vanc/zosyn; d/c Levoflox
   - Cont treat for COPD - Ipratropium and albuterol INH
   - On prednisone 60mg daily but taper off post extubation
   - Control anxiety to control her breathing - cont haldol PRN and
   propofol
   - Change ventilation setting to cpap with or without pressure support
   - SBT with PS 0/0 prior to extubation
   - Nitroglycerin on board for extubation
   - Cont furosemide with care for volume control
   - Cont fluid balance monitor
   - Repeat ABG mane
   - f/u pulm review
   #Blood pressure: resolving hypotension with anxiety aggrevated
   hypertension
   - Cont PRN Frusemide with care
   - d/c dopamine for hypotension
   - cont nitroglycerin as above
   - add Metoprolol Tartrate 12.5 mg PO/NG TID. Hold for SBP<100, HR<60
   - Monitor fluid balance
   #Anaemia: due to pulm haemorrhage [**3-10**] NSTEMI + ?pneumonia + anticoag
   - Serial Hct
   #Coronary: post stent for NSTEMI [**3-10**] two vessel disease
   - Cont ASA
   - Cont Plavix
   - Cont statin
   - Added Metoprolol Tartrate 12.5 mg PO/NG TID as above
   #Pump: Echo showing good EF; no history of CHF
   - Cont Frusemide IV PRN
   - Added Metoprolol Tartrate 12.5 mg PO/NG TID as above
   #Rhythm: No history of arrhythmia
   - Monitor telemetry
   - Monitor potassium level
   #MRSA: screen positive
   - Contact precaution [**Name2 (NI) **]
   #Pulm haemorrhage: [**3-10**] NSTEMI+?pneumonia+anticoags
   - Cont treating pneumonia as above
   - Coumadin on hold
   - suctioning
   - serial hct
   - transfuse if necessary
   #pneumonia: MRSA and capnocytophaga spp in sputum ([**Hospital1 **]); [**Hospital1 19**]
   blood/sputum culture pending
   - D/c Levoflox as above
   - Cont vanc for MRSA and zosyn for gram negative cover
   #COPD
   - Nebs changed to INH as per resp consult
   - Pred 60mg od
 taper off post extubation
   #[**Last Name (un) 61**] wall haematoma
   - serial Hct
   - Integrillin and coumadin on hold as above
   #Hyponatraemia: hypovolaemia vs SIADH [**3-10**] pneumonia vs frusemide
   -          Daily U/E
   #GERD: On [**Hospital1 **] PPI at home.
   - Cont pantoprazole
   #Anxiety: worsens respiratory parameters and BP
   - Cont propofol
   - Cont haldol PRN
   ICU Care
   Nutrition: NPO as Diet except Meds at the moment. [**Name2 (NI) 133**] see how she goes
   with extubation
 consider po feed post extubation if she is stable
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2105-4-7**] 06:25 PM
   20 Gauge - [**2105-4-8**] 04:00 PM
   Prophylaxis:
   DVT: Heparin 5000 UNIT SC TID
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) but can intubate
   Disposition:

2105-04-11 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2105-4-10**] 02:22 PM
 EKG - At [**2105-4-11**] 01:00 AM
   - Extubated
   - anxious given low dose ativan
   - hip pain, chronic. 5mg oxycodone (home dose given) and 2mg IV
   morphine and lidocaine patch. If further pain o/n, restart home pain
   regimen eval for delirium
   - diarrhea x3 today.
   - Started on lopressor 12.5mg TID.
   - Pulm recs continue zosyn/levo. We are continuing vanc also.
   - f/u midnight blood gas with lytes.
   - very anxious. Received IV lorax 0.5 then increased haldol from 0.5 to
   2mg IV after checking qtc.
   - Complaining of difficulty breathing. Stable on 4L NC, Given lasix
   10mg IV  then 20mg IV o/n
   - Captopril started given hypertension to 150s likely [**3-10**] agitation,
   risk of flash, uptitrated to 12.5 TID
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-4-10**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-11**] 12:10 AM
   Infusions:
   Nitroglycerin - 1.33 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2105-4-10**] 10:00 PM
   Furosemide (Lasix) - [**2105-4-11**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-11**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.1
C (97
   HR: 90 (78 - 105) bpm
   BP: 141/50(76) {112/34(53) - 161/64(96)} mmHg
   RR: 25 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 70 kg
   Height: 62 Inch
             Total In:
                                                                  1,695 mL
                                                                    409 mL
   PO:
                                                                    390 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    975 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                  1,700 mL
   Urine:
                                                                  1,880 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -185 mL
                                                                 -1,291 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 301 (301 - 377) mL
   PS : 5 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 146
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.49/50/183/35/13
   Ve: 9.9 L/min
   PaO2 / FiO2: 261
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   312 K/uL
   9.8 g/dL
   112 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.0 mEq/L
   11 mg/dL
   87 mEq/L
   135 mEq/L
   29.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2105-4-9**]  05:25 AM
                             [**2105-4-9**]  02:11 PM
                             [**2105-4-10**]  01:49 AM
                             [**2105-4-10**]  08:35 AM
                             [**2105-4-10**]  10:38 AM
                             [**2105-4-10**]  01:07 PM
                             [**2105-4-10**]  02:02 PM
                             [**2105-4-10**]  04:42 PM
                             [**2105-4-11**]  02:41 AM
                             [**2105-4-11**]  03:03 AM
   WBC
   10.1
   9.1
   Hct
   28.1
   30.9
   29.5
   Plt
   295
   312
   Cr
   0.8
   0.7
   TCO2
   33
   34
   34
   34
   32
   32
   39
   Glucose
   94
   112
   Other labs: PT / PTT / INR:13.8/28.8/1.2, CK / CKMB /
   Troponin-T:92/27/0.68, ALT / AST:14/27, Alk Phos / T Bili:63/0.6,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, LDH:306 IU/L, Ca++:7.6 mg/dL, Mg++:2.0
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Patient is a 82 y/o F w/ COPD, pneumonia, now with an NSTEMI found to
   have 2vd on cath s/p BMS to RCA and LCx and transferred to the CCU
   after cardiac catheterization c/b dissection, hypotension, and
   respiratory failure. Now, s/p extubation yesterday.
   #Respiratory: Pt is now s/p extubation yesterday and is tolerating this
   fairly well.  Of note, however, she does have significant crackles and
   rhonchi on exam.
   - can repeat CXR today
   - continue vanc/zosyn/levaquin
   - continue ipratropium and albuterol nebs
   - begin prednisone taper today
 will decrease to 40 mg daily
   - Control anxiety to control her breathing - cont haldol PRN
   - Cont furosemide with care for volume control
   - f/u pulm recs
   #Blood pressure: resolving hypotension with anxiety aggrevated
   hypertension.
   - Cont PRN Frusemide with care
   - wean nitroglycerin as above
   - add Metoprolol Tartrate 12.5 mg PO/NG TID. Hold for SBP<100, HR<60
   - Monitor fluid balance
   #Anaemia: due to pulm haemorrhage [**3-10**] NSTEMI + ?pneumonia + anticoag
   - Serial Hct
   #Coronary: post stent for NSTEMI [**3-10**] two vessel disease
   - Cont ASA
   - Cont Plavix
   - Cont statin
   - Added Metoprolol Tartrate 12.5 mg PO/NG TID as above
   #Pump: Echo showing good EF; no history of CHF
   - Cont Furosemide IV PRN
   - Added Metoprolol Tartrate 12.5 mg PO/NG TID as above
   - wean nitro gtt
   #Rhythm: No history of arrhythmia
   - Monitor telemetry
   - Monitor potassium level
   #MRSA: screen positive
   - Contact precaution [**Name2 (NI) **]
   #Pulm haemorrhage: [**3-10**] NSTEMI+?pneumonia+anticoags
   - Cont treating pneumonia as above
   - Coumadin on hold
   - suctioning
   - serial hct
   - transfuse if necessary
   #pneumonia: MRSA and capnocytophaga spp in sputum ([**Hospital1 **]); [**Hospital1 19**]
   blood/sputum culture pending
   - D/c Levoflox as above
   - Cont vanc for MRSA and zosyn for gram negative cover
   #COPD
   - Nebs changed to INH as per resp consult
   - Pred 60mg od
 taper off post extubation
   #[**Last Name (un) 61**] wall haematoma
   - serial Hct
   - Integrillin and coumadin on hold as above
   #Hyponatraemia: hypovolaemia vs SIADH [**3-10**] pneumonia vs frusemide
   -          Daily U/E
   #GERD: On [**Hospital1 **] PPI at home.
   - Cont pantoprazole
   #Anxiety/agitation/delerium: worsens respiratory parameters and BP
   - Restart home valium
   - d/c a-line
   - d/c restraints
   - d/c foley catheter
   - Cont haldol PRN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2105-4-7**] 06:25 PM
   20 Gauge - [**2105-4-8**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   ADDENDUM TO NOTE:
   Current Physical Exam:
   General
 Alert, NAD
   HEENT
 NC/AT, No obvious JVD noted
   CV
 RRR; No m/r/g
   Resp
 Crackles half-way up bilaterally; rhochi throughout
   Abd
 S/NT/ND; BS present
   Ext
 No significant pitting LE edema noted
   Correction to Plan: pt to continue on levaquin (in addition to
   vanc/zosyn) at this time
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 13813**], MD
   on:[**2105-4-11**] 10:57 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   continue to diurese
   major issue is mild dementia
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Name (NI) 5152**],MD
   on:[**2105-4-11**] 11:01 ------

2105-04-12 06:59:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2105-4-11**] 05:44 PM
   varified by x ray.
   - d/c'ed a-line
   - got a PICC
   - cultures NGTD
   - weaning off nitro
   - decreased prednisone to 40 mg daily
   - increased captopril and metoprolol to help wean nitro
   - PO2 on gas worse, so given another lasix bolus
   - restarted home valium and then decreased dose
   - ordered PT consult
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2105-4-11**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-11**] 04:00 PM
   Vancomycin - [**2105-4-11**] 07:44 PM
   Piperacillin - [**2105-4-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2105-4-11**] 01:35 PM
   Heparin Sodium (Prophylaxis) - [**2105-4-11**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-12**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.4
   HR: 58 (58 - 94) bpm
   BP: 108/39(60) {94/29(48) - 151/61(91)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 69 kg (admission): 70 kg
   Height: 62 Inch
             Total In:
                                                                  1,685 mL
                                                                    230 mL
   PO:
                                                                    750 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    935 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  3,174 mL
                                                                    295 mL
   Urine:
                                                                  3,174 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,489 mL
                                                                    -66 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.48/47/92.[**Numeric Identifier 132**]/36/9
   Physical Examination
   General
 Alert, NAD
   HEENT
 NC/AT, No obvious JVD noted
   CV
 RRR; No m/r/g
   Resp
 Crackles half-way up bilaterally; rhochi throughout
   Abd
 S/NT/ND; BS present
   Ext
 No significant pitting LE edema noted
   Labs / Radiology
   286 K/uL
   9.3 g/dL
   80 mg/dL
   0.6 mg/dL
   36 mEq/L
   3.5 mEq/L
   12 mg/dL
   96 mEq/L
   137 mEq/L
   28.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2105-4-10**]  10:38 AM
                             [**2105-4-10**]  01:07 PM
                             [**2105-4-10**]  02:02 PM
                             [**2105-4-10**]  04:42 PM
                             [**2105-4-11**]  02:41 AM
                             [**2105-4-11**]  03:03 AM
                             [**2105-4-11**]  06:51 AM
                             [**2105-4-11**]  12:12 PM
                             [**2105-4-11**]  05:44 PM
                             [**2105-4-12**]  06:00 AM
   WBC
   9.1
   9.9
   Hct
   29.5
   28.5
   Plt
   312
   286
   Cr
   0.7
   0.6
   TCO2
   34
   34
   32
   32
   39
   37
   37
   36
   Glucose
   112
   80
   Other labs: PT / PTT / INR:14.9/32.3/1.3, CK / CKMB /
   Troponin-T:92/27/0.68, ALT / AST:14/27, Alk Phos / T Bili:63/0.6,
   Differential-Neuts:80.0 %, Band:2.0 %, Lymph:6.0 %, Mono:8.0 %, Eos:0.0
   %, Lactic Acid:0.8 mmol/L, LDH:306 IU/L, Ca++:8.1 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Patient is a 82 y/o F w/ COPD, pneumonia, now with an NSTEMI found to
   have 2vd on cath s/p BMS to RCA and LCx and transferred to the CCU
   after cardiac catheterization c/b dissection, hypotension, and
   respiratory failure. Now, s/p extubation yesterday.
   #Respiratory: Pt is now s/p extubation yesterday and is tolerating this
   fairly well.  Of note, however, she does have significant crackles and
   rhonchi on exam.
   - can repeat CXR today
   - continue vanc/zosyn/levaquin
   - continue ipratropium and albuterol nebs
   - begin prednisone taper today
 will decrease to 40 mg daily
   - Control anxiety to control her breathing - cont haldol PRN
   - Cont furosemide with care for volume control
   - f/u pulm recs
   #Blood pressure: resolving hypotension with anxiety aggrevated
   hypertension.
   - Cont PRN Frusemide with care
   - wean nitroglycerin as above
   - add Metoprolol Tartrate 12.5 mg PO/NG TID. Hold for SBP<100, HR<60
   - Monitor fluid balance
   #Anaemia: due to pulm haemorrhage [**3-10**] NSTEMI + ?pneumonia + anticoag
   - Serial Hct
   #Coronary: post stent for NSTEMI [**3-10**] two vessel disease
   - Cont ASA
   - Cont Plavix
   - Cont statin
   - Added Metoprolol Tartrate 12.5 mg PO/NG TID as above
   #Pump: Echo showing good EF; no history of CHF
   - Cont Furosemide IV PRN
   - Added Metoprolol Tartrate 12.5 mg PO/NG TID as above
   - wean nitro gtt
   #Rhythm: No history of arrhythmia
   - Monitor telemetry
   - Monitor potassium level
   #MRSA: screen positive
   - Contact precaution [**Name2 (NI) **]
   #Pulm haemorrhage: [**3-10**] NSTEMI+?pneumonia+anticoags
   - Cont treating pneumonia as above
   - Coumadin on hold
   - suctioning
   - serial hct
   - transfuse if necessary
   #pneumonia: MRSA and capnocytophaga spp in sputum ([**Hospital1 **]); [**Hospital1 19**]
   blood/sputum culture pending
   - D/c Levoflox as above
   - Cont vanc for MRSA and zosyn for gram negative cover
   #COPD
   - Nebs changed to INH as per resp consult
   - Pred 60mg od
 taper off post extubation
   #[**Last Name (un) 61**] wall haematoma
   - serial Hct
   - Integrillin and coumadin on hold as above
   #Hyponatraemia: hypovolaemia vs SIADH [**3-10**] pneumonia vs frusemide
   -          Daily U/E
   #GERD: On [**Hospital1 **] PPI at home.
   - Cont pantoprazole
   #Anxiety/agitation/delerium: worsens respiratory parameters and BP
   - Restart home valium
   - d/c a-line
   - d/c restraints
   - d/c foley catheter
   - Cont haldol PRN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2105-4-7**] 06:25 PM
   20 Gauge - [**2105-4-8**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: